US06635640B2
5-{3-[4-(2-Diethylaminoethylcarbamoyl)-3,5-dimethyl-1H-pyrrol-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-4-yl}-nicotinic Acid
A mixture of 5-(2-oxo-2,3-dihydro-1H-indol-4-yl)-nicotinic acid (381 mg, 1.5 mmol), 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylaminoethyl)-amide (398 mg, 1.5 mmol) and piperidine (1 mL) in ethanol (5 mL) was heated in a sealed tube at 60° C. for 10 hours. The reaction was concentrated, the residue was dissolved in a mixture of water and methanol and then acidified with 1N HCl. The resulted precipitate was collected by vacuum filtration, washed with methanol and dried to give the title compound.

reactant | 5-(2-oxo-2,3-dihydro-1H-indol-4-yl)-nicotinic acid | 1.5 mmol, 381 mg | O=C1NC2=CC=CC(=C2C1)C=1C=NC=C(C(=O)O)C1 | C14H10N2O3
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylaminoethyl)-amide | 1.5 mmol, 398 mg | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=O)C)CC | C14H23N3O2
reactant | piperidine | 1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 5-{3-[4-(2-Diethylaminoethylcarbamoyl)-3,5-dimethyl-1H-pyrrol-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-4-yl}-nicotinic Acid | C(C)N(CCNC(=O)C=1C(=C(NC1C)C=C1C(NC2=CC=CC(=C12)C=1C=NC=C(C(=O)O)C1)=O)C)CC | C28H31N5O4
